US04051248
A. 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-oxopiperidine
A mixture of 4-piperidone (2.2 g), 3,4-dihydro-2-chloromethylnaphthalene (4.0 g), and powdered sodium carbonate (3.5 g) in tolune (200 ml) containing several crystals of iodine is refluxed for 14 hours with vigorous stirring under nitrogen. The reaction mixture is then cooled, diluted with methylene chloride (100 ml), and filtered. The filtrate is concentrated and the crude product triturated with 1:1 hexane/ether (100 ml) to give the title compound.

reactant | 4-piperidone | 2.2 g | N1CCC(CC1)=O | C5H9NO
reactant | 3,4-dihydro-2-chloromethylnaphthalene | 4.0 g | ClCC1=CC2=CC=CC=C2CC1 | C11H11Cl
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | II | I2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-oxopiperidine | C1=C(CCC2=CC=CC=C12)CN1CCC(CC1)=O | C16H19NO
